US07321061B2
Sodium sulfite (442.4 g) was added to a stirred mixture of 2-chloromethyl-1,3-dimethyl-benzene (526.6 g), tetrabutylammonium iodide (6.4 g) and water (3.0 L). The mixture was warmed to reflux for 1 h. As the mixture cooled to room temperature, sodium chloride (526 g) and ethyl acetate (1.4 I) were added. The mixture was stirred and cooled to <10° C. The product was collected by filtration and washed with ethyl acetate (250 mL) and acetone (500 mL). The product was dried in vacuo at 60° C. to constant weight to give (2,6-dimethyl-phenyl)-methanesulfonic acid sodium salt (634 g, 88%). 1H NMR (300 MHz, DMSOd6): δ 7.17-6.91 (m, 3H, ArH), 3.96 (s, 2H, CH2), and 2.29 (s, 6H, CH3).

reactant | Sodium sulfite | 442.4 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloromethyl-1,3-dimethyl-benzene | 526.6 g | ClCC1=C(C=CC=C1C)C | C9H11Cl
reactant | water | 3.0 L | O | H2O
reactant | sodium chloride | 526 g | [Cl-].[Na+]
catalyst | tetrabutylammonium iodide | 6.4 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,6-dimethyl-phenyl)-methanesulfonic acid sodium salt | 634 g, 88% | [Na+].CC1=C(C(=CC=C1)C)CS(=O)(=O)[O-] | InChI=1S/C9H12O3S.Na/c1-7-4-3-5-8(2)9(7)6-13(10,11)12;/h3-5H,6H2,1-2H3,(H,10,11,12);/q;+1/p-1
